US07189738B2
5-Chloro-N-{2-[2-(1-methyl-2-pyrrolidinyl)ethyl]-1,3-dioxo-2,3-dihydro-1H-isoindol-4-yl}-2-thiophenecarboxamide
50 mg (0.16 mmol) of 5-chloro-N-(1,3-dioxo-1,3-dihydro-2-benzofuran-4-yl)-2-thiophenecarboxamide and 20.8 mg of (0.16 mmol) 2-(1-methyl-2-pyrrolidinyl)ethylamine are dissolved in 2 ml of dioxane and heated at reflux for 24 h. Removal of the solvent under reduced pressure gives 65 mg (97% of theory) of the desired product.

reactant | 5-chloro-N-(1,3-dioxo-1,3-dihydro-2-benzofuran-4-yl)-2-thiophenecarboxamide | 0.16 mmol, 50 mg | ClC1=CC=C(S1)C(=O)NC1=CC=CC=2C(OC(C21)=O)=O | C13H6ClNO4S
reactant | 2-(1-methyl-2-pyrrolidinyl)ethylamine | 0.16 mmol, 20.8 mg | CN1C(CCC1)CCN | C7H16N2
solvent | dioxane | 2 ml | O1CCOCC1 | C4H8O2
product | 5-Chloro-N-{2-[2-(1-methyl-2-pyrrolidinyl)ethyl]-1,3-dioxo-2,3-dihydro-1H-isoindol-4-yl}-2-thiophenecarboxamide | ClC1=CC=C(S1)C(=O)NC1=C2C(N(C(C2=CC=C1)=O)CCC1N(CCC1)C)=O | C20H20ClN3O3S
